Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
fatigue
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo female with a h/o hypertension and depression who 
comes in today with history of sudden nausea, vomiting, 
lightheadedness and dizziness.  Earlier on the day of admission, 
she began feeling feverish and noted general weakness in all 
extremities, with some associated dizziness with standing.  She 
feels very fatigued and doesn't want to get out of bed. She has 
been having nausea all day with no vomiting.  Having new loose 
stools.  Denies any cough, dysuria, focal weakness. No chest 
pain, no SOB.  She also had some vague abdominal pain that was 
transient.  Of note, her daughter also had a GI illness with 
similar nausea, vomiting and diarrhea.  She states that her 
daughter's symptoms are less severe.  

In ER: On arrival was in sinus brady in the ___ and very 
hypertensive. Was given 3 L IVF and pt reported that she felt 
better. She had a head CT head on admission which was normal. CT 
abd without any acute findings. The patient continued to have a 
number of non-specific complaints that did not resolve so the 
patient was admitted for further monitoring.

ROS:  
-Constitutional: []WNL []Weight loss [x]Fatigue/Malaise [x]Fever 
[]Chills/Rigors []Nightweats [x]Anorexia  
-Eyes: []WNL []Blurry Vision []Diplopia []Loss of Vision 
[]Photophobia  
-ENT: [x]WNL []Dry Mouth []Oral ulcers []Bleeding gums/nose 
[]Tinnitus []Sinus pain []Sore throat  
-Cardiac: [x]WNL []Chest pain []Palpitations ___ edema 
[]Orthopnea/PND []DOE  
-Respiratory: [x]WNL []SOB []Pleuritic pain []Hemoptysis []Cough 
 
-Gastrointestinal: []WNL [x]Nausea []Vomiting [x]Abdominal pain 
[]Abdominal Swelling [xx]Diarrhea []Constipation []Hematemesis 
[]Hematochezia []Melena  
-Heme/Lymph: []WNL []Bleeding []Bruising []Lymphadenopathy  
-GU: [x]WNL []Incontinence/Retention []Dysuria []Hematuria 
[]Discharge []Menorrhagia  
-Skin: [x]WNL []Rash []Pruritus  
-Endocrine: []WNL []Change in skin/hair []Loss of energy 
[]Heat/Cold intolerance  
-Musculoskeletal: []WNL [x]Myalgias [x]Arthralgias []Back pain  
-Neurological: [ ]WNL []Numbness of extremities [x]Weakness of 
extremities []Parasthesias []Dizziness/Lightheaded []Vertigo 
[]Confusion []Headache  

 
Past Medical History:
Hypertension
Depression/Anxiety
Nasal allergies
?History of "leaky heart valve"
 
Social History:
___
Family History:
mother died in ___ of blood clot and had h/o cancer. 
 
Physical Exam:
VS: 96.6 57 140/78 16 100%RA
Gen: no acute distress, awake, alert, appropriate, and oriented 
x 3.
Skin: warm to touch, no apparent rashes. 
HEENT: No conjunctival pallor, no scleral jaundice, OP clear, no 
cervical LAD
CV: RRR no audible m/r/g, pulses 2+, no ___ edema
Lungs: clear to auscultation
Abd: soft, NT, normal BS
Ext: No C/C/E
Neuro: 
CN: + nystagmus (non fatigued) with ___, + diplopia 
with Right ward gaze, otherwise intact
Strength: ___ diffusely
Sensation : intact to light touch
Reflexes: 2+ at patella and brachial
Gait deferred as patient could not tolerate standing
 
Pertinent Results:
___ 03:50PM URINE  HOURS-RANDOM
___ 03:50PM URINE  UCG-NEGATIVE
___ 03:50PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 03:42PM   LACTATE-2.0
___ 02:35PM URINE  HOURS-RANDOM
___ 02:35PM URINE  HOURS-RANDOM
___ 02:35PM URINE  UCG-NEG
___ 02:35PM URINE  GR HOLD-HOLD
___ 02:35PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:35PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 01:10PM   GLUCOSE-207* UREA N-15 CREAT-1.1 SODIUM-141 
POTASSIUM-4.4 CHLORIDE-102 TOTAL CO2-24 ANION GAP-19
___ 01:10PM   ALT(SGPT)-11 AST(SGOT)-32 ALK PHOS-127* TOT 
BILI-0.7
___ 01:10PM   LIPASE-28
___ 01:10PM   CK-MB-1 cTropnT-<0.01
___ 01:10PM   ALBUMIN-4.2 CALCIUM-9.8 PHOSPHATE-2.7 
MAGNESIUM-2.0
___ 01:10PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:10PM   WBC-18.3*# RBC-4.99 HGB-13.7 HCT-39.4 MCV-79* 
MCH-27.3 MCHC-34.6 RDW-13.5
___ 01:10PM   NEUTS-82.6* LYMPHS-13.7* MONOS-1.5* EOS-1.7 
BASOS-0.4
___ 01:10PM   PLT COUNT-270

CT Head:
HEAD CT WITHOUT IV CONTRAST: There is no hemorrhage, edema, mass 
effect, 
shift of normally midline structures, or evidence of major 
vascular 
territorial infarction. The ventricles and sulci are normal in 
size and 
configuration for the patient's age. The visualized paranasal 
sinuses and 
soft tissues appear unremarkable. 
  
IMPRESSION: No evidence of acute process. 

MRI:
1. Several punctate subcortical white matter changes, 
nonspecific, without 
acute intracranial findings. 
  
2. Mild mucosal thickening within the right mastoid air cells. 
  
3. Normal head and neck MRA. 

CT abdomen:
1. No evidence of acute abdominal process. 
  
2. Multiple uterine fibroids. 
  
3. Possible fibrofatty infiltration of the colonic wall which 
can be seen in inflammatory bowel disease though evaluation of 
colon somewhat limited.  Clinically correlate. 

CXR
IMPRESSION: No acute intrathoracic abnormality. The apparent 
enlargement in the cardiac silhouette size is accentuated by 
technique and patient factors but is felt real, which represents 
an interval change. Apparent history of mitral regurgitation may 
help account for this. 

Discharge labs:

___ 06:35AM BLOOD WBC-8.0 RBC-4.86 Hgb-13.0 Hct-38.7 
MCV-80* MCH-26.8* MCHC-33.6 RDW-12.6 Plt ___
___ 06:35AM BLOOD Glucose-101* UreaN-13 Creat-1.1 Na-141 
K-3.8 Cl-103 HCO3-30 AnGap-12
___ 06:35AM BLOOD Calcium-9.8 Phos-4.7* Mg-2.2
___ 01:10PM BLOOD TSH-1.6
___ 01:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
___ yo female admitted with dizziness, nausea and light 
headedness.   

* Peripheral vertigo - On the morning after admission, neuro 
exam revealed nystagmus with ___ and diplopia with 
extreme rightward gaze.  Given these symptoms, neurology consult 
was called given concern for stroke versus demyelinating 
process.  Neurology consult was unable to elicit diplopia and 
had a lower suspicion for stroke or acute demyelinating process. 
 An MRI/MRA was obtained which did not reveal signs of acute 
stroke or other processes.  Given that there was not a central 
etiology for her vertigo, she was diagnosed with peripheral 
vertigo, likely secondary to vestibular neuronitis given her 
recent viral syndrome, less likley BPPV.  She was started on 
meclizine ATC.  She was later started on valium 3mg (after 
discussion with neurology) for a total of 5 days.  ___ was 
consulted and during her hospitalization she was significantly 
improved.  She was able to ambulate with the aid of a walker and 
able to climb stairs at the time of discharge.  ___ felt that she 
was safe for discharge home without inpatient ___.  She was given 
a prescription for outpatient ___ and also for meclizine, valium 
(x 2 more days) and compazine PRN.  Of note, she was instructed 
not to drive while taking these medications.  She will follow up 
with her primary care provider to monitor her symptoms.  

Lastly, orthostatics were checked and she was postive by HR.  
After IV hydration, her orthostatics vitals signs were wnl.

* Bradycardia - On admission, she was found to be bradycardic.  
She had been taking metoprolol 50mg daily (but has been doing 
this for years per patient).  Her heart rate was in the 50-60s 
at rest.  Metoprolol was discontinued.  She also had 2 negative 
troponins on admission.

* Migraines - During her hospitalization, she complained of 
worsening migraine headaches with sensitivity to light.  She 
responded well to Fiorcet and was discharged with ibuprofen 
600mg PRN for headaches (she has used this in the past).

* Leukocytosis - On admission, she had a leukocytosis to 18.3.  
She was not started on antibiotics.  With IV hydration her 
leukocytosis resolved. This was likely an acute response to her 
viral gastroenteritis.

* Nausea/Vomiting - She had complained of this prior to her 
admission.  She had multiple sick contacts and this is likely 
viral gastroenteritis.  On discharge, she was able to tolerate a 
regular diet without diarrhea.  no abdominal pain, nausea or 
vomiting prior to discharge.  Of note, she had a CT abdomen on 
admission with finding suggestive of IBD.  Her symptoms resolved 
with supportive care, thus the suspicion of IBD was low.

* Hypertension, benign - Metoprolol was discontinued and HCTZ 
was restarted.  

* Atypical chest pain - Stable.  No chest pain.  

* Depression/Anxiety - Stable.

All other medical issues were stable and no further medication 
changes were made unless specified above.  

 
Medications on Admission:
HCTZ 25 daily
metoprolol 25 bid
loratidine 10 daily
nasal spray
 
Discharge Medications:
1. Meclizine 12.5 mg Tablet Sig: Two (2) Tablet PO TID (3 times 
a day) for 2 weeks.
Disp:*84 Tablet(s)* Refills:*0*
2. Ibuprofen 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for headache.  
3. Diazepam 2 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily) for 2 
days.
Disp:*3 Tablet(s)* Refills:*0*
4. Hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
5. Compazine 10 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed for nausea for 1 weeks.
Disp:*7 Tablet(s)* Refills:*0*
6. Outpatient Physical Therapy
Outpatient physical therapy for evaluation and treatment for 
peripheral vertigo.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vertigo, peripheral

Depression
Hypertension
Migraine headaches

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital with nausea, vomiting and 
dizziness.  You were diagnosed with vertigo, likely from your 
viral syndrome.  Neurology saw you in consultation as well.  You 
had an MRI that did not show that you had an acute stroke.  You 
were started on a medication called meclizine and valium for 
your dizziness.  

Please return to the emergency room if you have worsening 
dizziness, nausea and vomiting that prevents you from eating or 
drinking at home or unrelieved with your current medications.

Medication changes:
1. Meclizine was started for your dizziness
2. Metoprolol was stopped
3. Valium 3mg daily was started for your dizziness
4. Compazine was started for your dizziness

 
Followup Instructions:
___